US05663262
In a flask similar to that used for example 9 was placed 146 g (1.0 mole) of diethyl oxalate, and to this flask was added dropwise 26 g (0.25 moles) of diethanolamine maintaining reaction temperature at 30° C. during 1 hour. After the dropping finished, the stirring was continued at 25° C. for further 2 hours and then crystals separated were taken by filtration to obtain N-hydroxyethylmorpholine-2,3-dione.

reactant | diethyl oxalate | 1.0 mole, 146 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | diethanolamine | 0.25 moles, 26 g | N(CCO)CCO | C4H11NO2
product | N-hydroxyethylmorpholine-2,3-dione | OCCN1C(C(OCC1)=O)=O | C6H9NO4
